US04904675
1-(5-Carboxy-2-pyridinyl)-1-butanone oxime
To a stirred solution of 1-(5-carboxy-2-pyridinyl)-1-butanone (2 mmol) in 20 ml of pyridine, hydroxylamine hydrochloride (4 mmol) is added. The reaction mixture is stirred at room temperature for 5 h. The solvent is distilled off and the residue crystallized from ethyl acetate; m.p. 203°-205°.

reactant | 1-(5-carboxy-2-pyridinyl)-1-butanone | 2 mmol | C(=O)(O)C=1C=CC(=NC1)C(CCC)=O | C10H11NO3
reactant | hydroxylamine hydrochloride | 4 mmol | Cl.NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Carboxy-2-pyridinyl)-1-butanone oxime | C(=O)(O)C=1C=CC(=NC1)C(CCC)=NO | C10H12N2O3
